US06110962
[2, 6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]furan-11-yl)-phenoxy-acetic acid methyl ester
Methyl bromoacetate (0.554 mL, 5.8 mmol) was added to a stirred, room temperature suspension of 2, 6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]furan-11yl)-phenol (1.6 g, 2.92 mmol), potassium carbonate (0.81 g, 5.8 mmol) and dimethylformamide (7 mL). After 21 h, the reaction mixture was added to water and filtered. The solid was taken up in THF and silica gel was added. The solvent was removed. The adsorbate was flash chromatographed (9:1 petroleum ether:ethyl acetate as eluent) to provide the title compound as a white solid (0.987 g, 55%): mp 188-189° C.: NMR (DMSO-d6); δ8.37 (d, J=8 Hz, 1 H), 7.91 (s, 2 H), 7.84 (d, J=8 Hz, 1 H), 7.80 (ddd, J=8, 7, 1 Hz, 1 H), 7.70 (d, J=8 Hz, 1 H), 7.64-7.58 (m, 2 H), 7.31 (t, J=8 Hz, 1 H), 6.92 (d, J=8, 1 H), 4.88 (s, 2 H), 3.80 (s, 3 H); MS (EI): [M+], 3 bromine isotope pattern, 616 (30%), 618 (100%) 620 (100%) 622 (30%); Anal. Calc. for C25H15Br3O4: C, 48.50, H, 2.44, N, 0.00. Found: C, 48.53, H, 2.29, N, 0.00.

reactant | Methyl bromoacetate | 5.8 mmol, 0.554 mL | BrCC(=O)OC | C3H5BrO2
reactant | 2, 6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]furan-11yl)-phenol | 2.92 mmol, 1.6 g | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(O2)C=CC=C1)Br)Br)O | C22H11Br3O2
reactant | potassium carbonate | 5.8 mmol, 0.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2, 6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]furan-11-yl)-phenoxy-acetic acid methyl ester | 0.987 g, 55% | COC(COC1=C(C=C(C=C1Br)C1=C2C=CC=CC2=C(C2=C1C1=C(O2)C=CC=C1)Br)Br)=O | C25H15Br3O4
